* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 24.1
R1 n1 a 1
R2 a nc 2
V2 nc nd DC 24.4
R3 nd ne 5
V3 b ne DC 14.6
V4 nf b DC 9
R4 nf 0 2
.op
.print dc V(a) V(b)
.end